US06642226B2
(−)-(3,5-Bis-trifluoromethyl-phenyl)-[4-(4-cyclopropanecarbonyl-piperazin-1-yl)-3-p-tolyl-piperidin-1-yl]-methanone
The title compound, MS: m/e=568.3 (M+H+), [α]58920=−6.48 (c=0.4012, chloroform), was prepared in accordance with the general method of example 102 (part1) and example 38 from (−)-(1-{4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-p-tolyl-piperidin-4-yl]-piperazin-1-yl}-2,2,2-trifluoro-ethanone and cyclopropyl carbonyl chloride.

reactant | 1-{4-[1-(3,5-bis-trifluoromethyl-benzoyl)-3-p-tolyl-piperidin-4-yl]-piperazin-1-yl}-2,2,2-trifluoro-ethanone | FC(C=1C=C(C(=O)N2CC(C(CC2)N2CCN(CC2)C(C(F)(F)F)=O)C2=CC=C(C=C2)C)C=C(C1)C(F)(F)F)(F)F | C27H26F9N3O2
reactant | cyclopropyl carbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (−)-(3,5-Bis-trifluoromethyl-phenyl)-[4-(4-cyclopropanecarbonyl-piperazin-1-yl)-3-p-tolyl-piperidin-1-yl]-methanone | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1CC(C(CC1)N1CCN(CC1)C(=O)C1CC1)C1=CC=C(C=C1)C)(F)F | C29H31F6N3O2
